US08530475B2
1-[9-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl]-3-(2-methyl-1H-indol-4-yloxy)-propan-2-ol
2-Methyl-4-oxiranylmethoxy-1H-indole (25 mg, 0.123 mmol), 7-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-7,9-diaza-bicyclo[4.2.2]dec-3-ene (34 mg, 0.125 mmol), chloroform (1 mL), ethanol (3 mL) were heated for 900 sec. at 130° C. in a μW reaction tube. The solvent was evaporated under reduced pressure to yield a crude solid that was purified with flash chromatography gradient [20% Ethyl acetate/heptane to 100% Ethyl acetate] to yield the title compound as a residue.

reactant | 2-Methyl-4-oxiranylmethoxy-1H-indole | 0.123 mmol, 25 mg | CC=1NC2=CC=CC(=C2C1)OCC1OC1 | C12H13NO2
reactant | 7-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-7,9-diaza-bicyclo[4.2.2]dec-3-ene | 0.125 mmol, 34 mg | O1CCOC2=C1C=CC(=C2)N2C1CC=CCC(C2)NC1 | C16H20N2O2
reactant | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 1-[9-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl]-3-(2-methyl-1H-indol-4-yloxy)-propan-2-ol | O1CCOC2=C1C=CC(=C2)N2C1CC=CCC(N(C1)CC(COC1=C3C=C(NC3=CC=C1)C)O)C2 | C28H33N3O4
